data/oMe_Silver.jsonl
{"reaction_id": "NG-010_1-C2CCCCC2_2-c2ccccc2_3-C","name": "Bamford-Stevens Reaction","level": "medium","reactants_smiles": ["C(=NNS(=O)(=O)c1ccc(C)cc1)(C(C2CCCCC2)(c2ccccc2))(C)"],"products_smiles": ["C(=C(C2CCCCC2)(c2ccccc2))C(C)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=N[N-]S(=O)(=O)c1ccc(C)cc1)(C(C2CCCCC2)(c2ccccc2))(C)","rationale": "Base abstracts a proton alpha to the hydrazone nitrogen, stabilized by resonance into the adjacent imine, making the nitrogen anion more nucleophilic and primed for tosylate elimination."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+]=[N-])(C(C2CCCCC2)(c2ccccc2))(C)","rationale": "The negatively charged nitrogen facilitates expulsion of the tosylate, a good leaving group due to resonance stabilization by the sulfonyl group, forming a diazo species."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](C(C2CCCCC2)(c2ccccc2))(C)","rationale": "The diazo compound thermally or base-promotedly loses N₂ gas, a highly stable leaving group, generating an electron-deficient carbene intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=C(C2CCCCC2)(c2ccccc2))C(C)","rationale": "The carbene undergoes a 1,2-shift of C2CCCCC2 or c2ccccc2 to stabilize the electron-deficient center, forming the more thermodynamically stable alkene via rearrangement."}],"description": "Under basic conditions, the Bamford–Stevens reaction proceeds via deprotonation of the tosylhydrazone, generating an anion that eliminates the tosylate. This forms a diazo intermediate, which loses nitrogen to yield a carbene. A 1,2-shift then rearranges the carbene to the alkene product."}
{"reaction_id": "NR-241_1-c1ccc(OC)cc1_2-c1ccc(F)cc1_3-CC(F)(F)F_4-c1ccc(N(=O)=O)cc1","level": "medium","name": "Still-Gennari Reaction","reactants_smiles": ["c1ccc(OC)cc1C(=O)[H]","c1ccc(F)cc1OC(=O)CP(=O)(OCC(F)(F)F)(Oc1ccc(N(=O)=O)cc1)","[N-]([Si](C)(C)C)[Si](C)(C)C"],"products_smiles": ["c1ccc(OC)cc1/C=C\\C(=O)Oc1ccc(F)cc1"],"conditions": "","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(F)cc1OC(=O)[CH-]P(=O)(OCC(F)(F)F)(Oc1ccc(N(=O)=O)cc1)","step_weight": 0,"rationale": "The strong, non-nucleophilic base removes the acidic α-proton next to the phosphonate, stabilized by electron-withdrawing ester and phosphoryl groups via resonance and inductive effects."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(F)cc1OC(=O)C(P(=O)(OCC(F)(F)F)(Oc1ccc(N(=O)=O)cc1))C([O-])c1ccc(OC)cc1","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond and minimal steric hindrance."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(F)cc1OC(=O)C1C(c1ccc(OC)cc1)OP1([O-])(OCC(F)(F)F)(Oc1ccc(N(=O)=O)cc1)","step_weight": 0,"rationale": "Intramolecular cyclization to the oxaphosphetane is favored due to proximity effects and stabilization from the phosphoryl oxygen, locking in the (Z)-geometry."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(OC)cc1/C=C\\C(=O)Oc1ccc(F)cc1","step_weight": 0,"rationale": "Collapse of the oxaphosphetane eliminates the phosphate group, a good leaving group stabilized by resonance, to form the thermodynamically favored (Z)-alkene ester."}],"description": "A strong, non-nucleophilic base deprotonates the electron-withdrawing phosphonate to form a stabilized carbanion, which adds to the aldehyde. Rapid cyclization to an oxaphosphetane intermediate ensures (Z)-selectivity, followed by elimination of the phosphate to yield the (Z)-alkene ester."}
